US05457205
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-isopropyl-thiazol-4-yl)morpholin-5-one
0.60 ml (7.89 mmol) of chloroacetyl chloride is added dropwise to a stirred solution of 3.10 g (7.89 mmol) of N-[2-(4-methoxycarbonylmethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-isopropyl-thiazol-4-yl)-ethanamine and 1.10 ml (7.89 mmol) of triethylamine in 20 ml of chloroform at 25° C. internal temperature. After the mixture has stood overnight at 20° C., it is concentrated in vacuo, and the resudue is dissolved in 30 ml of anhydrous dimethyl formamide. To this is added 0.888 g (15.78 mmol) of a 55% dispersion of sodium hydride in oil, during which brief foaming is observed. The mixture is stirred at 20° C. for 3 hours, concentrated in vacuo, and the residue is partitioned between water and ether. The ether solution is dried, filtered and concentrated in vacuo, and the oily residue is purified on silica gel (toluene/acetone =4:1).

reactant | chloroacetyl chloride | 7.89 mmol, 0.60 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | N-[2-(4-methoxycarbonylmethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-isopropyl-thiazol-4-yl)-ethanamine | 7.89 mmol, 3.10 g | COC(=O)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(C)C)O | C20H28N2O4S
reactant | triethylamine | 7.89 mmol, 1.10 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-isopropyl-thiazol-4-yl)morpholin-5-one | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1CC(OCC1=O)C=1N=C(SC1)C(C)C | C22H28N2O5S
